US06274705B1
N-BOC-b-cyclohexylalanine (2.0 g.) and triethyl amine (1.03 ml) are dissolved together in THF (100 ml) and the solution cooled to −20° C. Isobutyl chloroformate (1.06 ml) is added and the solution stirred at −20° C. for about 30 minutes. A saturated solution of ammonia in methanol (20 ml) is added and the solution allowed to warm to room temperature and stirred at room temperature for about 18 hours. The solution is evaporated in vacuo and the residue dissolved in ethyl acetate. The ethyl acetate solution is washed with water, 5% HCl, saturated sodium bicarbonate solution, water, brine, dried over sodium sulfate, filtered and evaporated in vacuo to give N-BOC-b-cyclohexylalanine amide.

reactant | N-BOC-b-cyclohexylalanine | 2.0 g | C(=O)(OC(C)(C)C)N[C@@H](CC1CCCCC1)C(=O)O | C14H25NO4
reactant | triethyl amine | 1.03 ml | C(C)N(CC)CC | C6H15N
reactant | Isobutyl chloroformate | 1.06 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | N | H3N
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | N-BOC-b-cyclohexylalanine amide | C(=O)(OC(C)(C)C)NC([C@@H](N)CC1CCCCC1)=O | C14H26N2O3
